US05041455
B. cis-3-(4-(2-hexenyloxy)-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide
A mixture of methyl iodide (0.5 ml, 7.5 mmol) and cis-3-(4-(2-hexenyloxy)-1,2,5-thiadiazol-3-yl)pyridine (3 mmol) in acetone (4 ml) was stirred at room temperature for 18 h. The title compound precipitated from the solution and was collected by filtration.

reactant | methyl iodide | 7.5 mmol, 0.5 ml | CI | CH3I
reactant | cis-3-(4-(2-hexenyloxy)-1,2,5-thiadiazol-3-yl)pyridine | 3 mmol | C(\C=C/CCC)OC=1C(=NSN1)C=1C=NC=CC1 | C13H15N3OS
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | cis-3-(4-(2-hexenyloxy)-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | [I-].C(\C=C/CCC)OC=1C(=NSN1)C=1C=[N+](C=CC1)C | InChI=1S/C14H18N3OS.HI/c1-3-4-5-6-10-18-14-13(15-19-16-14)12-8-7-9-17(2)11-12;/h5-9,11H,3-4,10H2,1-2H3;1H/q+1;/p-1/b6-5-;
